US04789675
To a solution of 6-amino-2-{3-[4-(4-fluorophenyl)-1-piperazinyl]propyl}-2H-1,4-benzoxazin-3(4H)-one (500 mg) in pyridine (5 ml) was added acetic anhydride (0.18 ml) while stirring. The mixture was stirred at room temperature for further 4 hours, which was then poured into ice-water. Precipitated crystals were collected by filtration, followed by recrystallization from dichloromethane-ethyl acetate to give 397 mg (71.5%) of 6-acetamido-2-{3-[4-(4-fluorophenyl)-1-piperazinyl]propyl}-2H-1,4-benzoxazin-3(4H)-one, m.p. 111°-112° C.

reactant | 6-amino-2-{3-[4-(4-fluorophenyl)-1-piperazinyl]propyl}-2H-1,4-benzoxazin-3(4H)-one | 500 mg | NC=1C=CC2=C(NC(C(O2)CCCN2CCN(CC2)C2=CC=C(C=C2)F)=O)C1 | C21H25FN4O2
reactant | acetic anhydride | 0.18 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | 5 ml | N1=CC=CC=C1 | C5H5N
product | 6-acetamido-2-{3-[4-(4-fluorophenyl)-1-piperazinyl]propyl}-2H-1,4-benzoxazin-3(4H)-one | 397 mg, 71.5% | C(C)(=O)NC=1C=CC2=C(NC(C(O2)CCCN2CCN(CC2)C2=CC=C(C=C2)F)=O)C1 | C23H27FN4O3
